US07115611B2
F] 2-Methyl-2-(2-methyl-4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-propionic acid
0.070 g (0.140 mmol) of the above prepared 2-methyl-2-(2-methyl-4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester was dissolved in 0.84 ml of THF/EtOH=1/1, treated with 0.42 ml (3 eq.) of 1N NaOH and kept at ambient temperature for 4 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the aqueous phase extracted again with AcOEt; the combined organic layers were washed with water, dried over sodium sulfate, and evaporated to dryness to yield 0.057 g of the title product as light yellow foam.

reactant | 2-methyl-2-(2-methyl-4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C28H30F3NO4
reactant | NaOH | 1N, 0.42 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 0.84 ml | C1CCOC1.CCO
product | 2-Methyl-2-(2-methyl-4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-propionic acid | 0.057 g | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C | C26H26F3NO4
